US07696234B2
N,N-Dimethyl-4-[4-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenoxymethyl]-benzamide
The title compound is prepared in a manner substantially analogous to Procedure C using (4-Hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 4-chloromethyl-N,N-dimethyl-benzamide [CAS 121083-51-0]. MS (ES+) 436.3

reactant | (4-Hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | OC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H22N2O2
reactant | 4-chloromethyl-N,N-dimethyl-benzamide | ClCC1=CC=C(C(=O)N(C)C)C=C1 | C10H12ClNO
product | N,N-Dimethyl-4-[4-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenoxymethyl]-benzamide | CN(C(C1=CC=C(C=C1)COC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)=O)C | C26H33N3O3
